US04556737
Dissolved in 4 ml of dimethylformamide were 1.46 g of triethylamine and 1.52 g of 4-(3-ethoxy-2-hydroxypropoxy)aniline. A 1.10 g quantity of 3-methylmercaptopropionyl chloride was added to the solution with ice-cooling. The mixture was stirred at room temperature for 12 hours and the reaction mixture was concentrated. The residue was extracted with chloroform and the chloroform layer was washed successively with 1N hydrochloric acid, a saturated aqueous solution of sodium hydrogencarbonate and water and concentrated. Ether was added to the residue and the crystals formed were filtered off to give 1.52 g of 2-{4-(3-ethoxy-2-hydroxypropoxy)phenylcarbamoyl}ethyl methyl sulfide in 67.4%, M.P. 79° to 81° C.

reactant | triethylamine | 1.46 g | C(C)N(CC)CC | C6H15N
reactant | 4-(3-ethoxy-2-hydroxypropoxy)aniline | 1.52 g | C(C)OCC(COC1=CC=C(N)C=C1)O | C11H17NO3
reactant | 3-methylmercaptopropionyl chloride | CSCCC(=O)Cl | C4H7ClOS
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 2-{4-(3-ethoxy-2-hydroxypropoxy)phenylcarbamoyl}ethyl methyl sulfide | 1.52 g | CSCCC(NC1=CC=C(C=C1)OCC(COCC)O)=O | C15H23NO4S
